US06632944B2
To a flask equipped with a reflux condenser, a nitrogen inlet, and a mechanical stirrer is added 50 gm of cyanuric chloride, 191 mL of ODCB and 108.4 gm of aluminum chloride. The mixture is cooled in an ice-bath to 5° C. and 6.5 gm of concentrated HCl was added over a period of 20 minutes. The mixture was allowed to warm to room temperature, and stirred for 2 hours. It was cooled back to 5° C. and then 54.7 gm of o-xylene was slowly added over a period of 3 hours, while allowing the temperature to go up to 21° C. The mixture was stirred at room temperature for additional 16 hours. The reaction mixture was heated to about 63° C. and 34 gm of resorcinol was added over a period of about 30 minutes. The mixture was held at about 75° C. for 3 hours. It was then added to 500 mL water and ODCB distilled off azeotropically. The precipitated solid was filtered off and washed with water. The material was dried in a vacuum oven to give 96 gm of crude 2-(2,4-dihydroxyphenyl)-4,6-bis(3,4-dimethylphenyl)-1,3,5-triazine. The HPLC analysis showed it to contain about 5% of polyresorcinol-triazines and 10.7% tris-o-xylyl-triazine.

reactant | cyanuric chloride | 50 gm | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | aluminum chloride | 108.4 gm | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | 6.5 gm | Cl | ClH
reactant | resorcinol | 34 gm | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | o-xylene | 54.7 gm | CC=1C=CC=CC1C | C8H10
solvent | ODCB | C1=CC(=C(C=C1)Cl)Cl | C6H4Cl2
solvent | water | 500 mL | O | H2O
solvent | ODCB | 191 mL | C1=CC(=C(C=C1)Cl)Cl | C6H4Cl2
product | 2-(2,4-dihydroxyphenyl)-4,6-bis(3,4-dimethylphenyl)-1,3,5-triazine | 96 gm | OC1=C(C=CC(=C1)O)C1=NC(=NC(=N1)C1=CC(=C(C=C1)C)C)C1=CC(=C(C=C1)C)C | C25H23N3O2
